US06297275B1
To 3.0 g of 3-phenoxyphenyl hydrazine, 100 ml of ethyl acetate and 2.5 ml of pyridine were added and the resultant solution was then stirred at room temperature for 30 minutes. Then, 2.5 ml of sec-butyl chloro-formate was added dropwise to the solution and stirred for 1 hour at room temperature. The solution was then washed twice, each time with 100 ml of water. After each wash, the aqueous fraction was removed from the organic (ethyl acetate) fraction. The resulting ethyl acetate fraction was then dried over anhydrous sodium sulfate, evaporated under reduced pressure, and then purified by column chromatography on silica gel, to produce 1.5 g of 1-methylpropyl 2-(3-phenoxyphenyl)hydrazine carboxylate as an oil.

reactant | 3-phenoxyphenyl hydrazine | 3.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)NN | C12H12N2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | sec-butyl chloro-formate | 2.5 ml | ClC(=O)OC(C)CC | C5H9ClO2
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | 1-methylpropyl 2-(3-phenoxyphenyl)hydrazine carboxylate | 1.5 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)NNC(=O)OC(CC)C | C17H20N2O3
